US04883822
Synthesis of (±)-4a-methyl-4,4a,9,10-tetrahydro-2(3H)-phenanthrenone (Compound 4)
Potassium hydroxide in the amount of 2.25 g (40 mmol) was dissolved in 4.5 g of water in 100-ml three-necked flask, and the obtained solution was then cooled with ice under agitation in a stream of nitrogen gas. A methanol solution (8 ml) containing 4.8 g (30 mmol) of 1-methyl-2-tetralone was added dropwisely to the above obtained solution. The reaction vessel was cooled to -15° C., then, 2.1 g (30 mmol) of methyl vinyl ketone was added dropwisely to the reaction vessel and 2 ml of methanol was further added thereto. The resulted mixture was agitated under cooling with ice for 1 hour and then at room temperature for 6 hours in a stream of nitrogen-gas. Then, the mixture had been allowed to react at 70° C. for 6 hours. The reaction mixture was then poured into iced water, made acidic with hydrochloric acid and extracted with ether. The ether layer was removed and washed with water, and then dried with sodium sulfate. The ether was distilled off to obtain 5.75 g of oily yellowish orange residue. A part of this residue was crystallized and resulted crystals were recrystallized twice from cyclohexane to obtain 2.8 g of colorless plate-like crystals. The oily portion was further allowed to crystallize to obtain 1.9 g of crystals. The total yield was 4.7 g.

reactant | Potassium hydroxide | [OH-].[K+]
reactant | 1-methyl-2-tetralone | 30 mmol, 4.8 g | CC1C(CCC2=CC=CC=C12)=O | C11H12O
reactant | methyl vinyl ketone | 30 mmol, 2.1 g | C(=C)C(=O)C | C4H6O
reactant | hydrochloric acid | Cl | ClH
solvent | water | 4.5 g | O | H2O
solvent | methanol | 2 ml | CO | CH4O
solvent | methanol | 8 ml | CO | CH4O
product | (±)-4a-methyl-4,4a,9,10-tetrahydro-2(3H)-phenanthrenone | 5.75 g | CC12CCC(C=C2CCC2=CC=CC=C12)=O | C15H16O
